US05763450
A suspension of 4.04 g of ethyl 7-bromo-4-hydroxy-quinoline-3-carboxylate (J. Am. Chem. Soc. 71,3226, (1949)) and 4.71 g of potassium carbonate in 30 ml of dimethylformamide is treated with 9.68 g of methyl iodide at room temperature. The reaction mixture is heated to 90° and stirred at this temperature for 3 hrs. The reaction mixture is concentrated in a high vacuum. The residue is suspended in 50 ml of water, filtered off under suction and washed with 50 ml of water. Recrystallization of the crude product from ethanol/diethyl ether yields 3.67 g (86%) of ethyl 7-bromo-1-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylate as a colourless solid. M.p. 189°-191°.

reactant | ethyl 7-bromo-4-hydroxy-quinoline-3-carboxylate | 4.04 g | BrC1=CC=C2C(=C(C=NC2=C1)C(=O)OCC)O | C12H10BrNO3
reactant | potassium carbonate | 4.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 9.68 g | CI | CH3I
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 7-bromo-1-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylate | 3.67 g, 86% | BrC1=CC=C2C(C(=CN(C2=C1)C)C(=O)OCC)=O | C13H12BrNO3
